US07446118B2
To a solution of 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (620 mg, 1.96 mmol) in EtOH (30 ml) and EtOAc (15 ml) was added Degoussa-type catalyst (10% Pd/C wet, 70 mg). The reaction mixture was hydrogenated in a Parr apparatus at 55 psi of H2 for 19 hours. The reaction mixture was filtered through celite with EtOH, MeOH and EtOAc. The filtrate was concentrated to afford 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester LIX as a white solid in quantitative yield (648 mg).

reactant | 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
reactant | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester | quantitative yield | C(C)OC(CC(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H18N2O2
